US07795436B2
A 2.5 M THF/toluene solution of (3-bromo-5-methylphenyl)magnesium bromide (40 mL, 99 mmol) was cooled to −15° C., and methyl 1-benzyl-1,2,3,6-tetrahydropyridine-4-carboxylate (9.85 g, 42.6 mmol) in benzene (17.5 mL) was slowly added for 3 h at −15° C. The reaction mixture was stirred additional 2 h at −15° C. and warmed to 20° C. The reaction was quenched by addition of saturated NH4Cl aqueous solution followed by extraction with EtOAc. The combined organic solution was dried over MgSO4, filtered and concentrated in vacuo. The residue was chromatographed in silica gel column (Hex/EtOAc 9/1) to give methyl 1-benzyl-3-(3-bromo5-methyl-phenyl)piperidine-4-carboxylate (12.2 g, 30.3 mmol).

reactant | THF toluene | 2.5 M | C1CCOC1.C1(=CC=CC=C1)C
reactant | (3-bromo-5-methylphenyl)magnesium bromide | 99 mmol, 40 mL | BrC=1C=C(C=C(C1)C)[Mg]Br
reactant | methyl 1-benzyl-1,2,3,6-tetrahydropyridine-4-carboxylate | 42.6 mmol, 9.85 g | C(C1=CC=CC=C1)N1CCC(=CC1)C(=O)OC | C14H17NO2
solvent | benzene | 17.5 mL | C1=CC=CC=C1 | C6H6
product | methyl 1-benzyl-3-(3-bromo5-methyl-phenyl)piperidine-4-carboxylate | 30.3 mmol, 12.2 g | C(C1=CC=CC=C1)N1CC(C(CC1)C(=O)OC)C1=CC(=CC(=C1)C)Br | C21H24BrNO2
